### PR TITLE
feat: `T.ctor.elim` single-constructor cases function

### PR DESCRIPTION
**Pull request by nomeata**
This PR adds “non-branching case statements”: For each inductive constructor `T.con` this adds  a function `T.con.with` that is similar `T.casesOn`, but has only one arm (the one for `con`), and an additional `t.toCtorIdx = 12` assumption.

For example:
```lean
inductive Vec (α : Type) : Nat → Type where
  | nil : Vec α 0
  | cons {n} : α → Vec α n → Vec α (n + 1)

/--
info: @[reducible] protected def Vec.cons.elim.{u} : {α : Type} →
  {motive : (a : Nat) → Vec α a → Sort u} →
    {a : Nat} →
      (t : Vec α a) →
        t.ctorIdx = 1 → ({n : Nat} → (a : α) → (a_1 : Vec α n) → motive (n + 1) (Vec.cons a a_1)) → motive a t
-/
#guard_msgs in
#print sig Vec.cons.elim
```

This is a building block for non-quadratic implementations of `BEq` and `DecidableEq` etc.

Builds on top of #9951.

The compiled code for a these functions could presumably, without branching on the inductive value, directly access the fields. Achieving this optimization (and achieving it without a quadratic compilation cost) is not in scope for this PR.

### CODE REVIEW

**Comment by Rob23oba** [comment]
I guess you could instead define it as
```lean-4
inductive ABC where
  | first
  | second (x : Nat)

def ABC.second.with {motive : (x : ABC) -> x.toCtorIdx = 1 -> Sort u} (second : (x : Nat) -> motive (.second x) rfl)
    {t : ABC} : (h : t.toCtorIdx = 1) -> motive t h :=
  t.casesOn (Not.elim (Nat.ne_of_beq_eq_false rfl)) (fun _ => second)
```
but that has the same quadratic elaboration time problems. So perhaps compiler support is also the right thing here?

**Comment by nomeata** [comment]
That more natural definition would make the `.with` definition for each constructor have size $$n$$, so already quadratic in size. Hence defining all of them via a single helper function, so that there is only one huge `.casesOn` to type check.


Unfortunately reducing an application of this is still taking linear time, and I don't quite now how to avoid that (without improvements to the kernel).

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase afbf52896f3788b30ccb2caf0d5f4077e2a7cf57 --onto 21f5263f2f28e5fd7b6a99c40f0c11351f04aedb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-25 12:57:30)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase aa0cf78d9376818476f2d802eb7928f70e906566 --onto 797985e3197ad2cf805310911854565996e72c48`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-26 11:11:33)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-08-26` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-27 10:17:17)

File: src/Lean/Meta/Constructions/CtorElim.lean [hunk 1]
```diff
@@ -0,0 +1,283 @@
...
+  let lvls := maxArgs l #[]
+  let last := lvls.back!
+  lvls.pop.foldr mkLevelMax last
+where
+  maxArgs (l : Level) (lvls : Array Level) : Array Level :=
+  match l with
+  | .max l1 l2 => maxArgs l2 (maxArgs l1 lvls)
+  | _ => lvls.push l
+
+def maxLevels (es : Array Expr) : MetaM Level := do
```
Comment (Rob23oba) [inline src/Lean/Meta/Constructions/CtorElim.lean:35]: Can't we use the information that for an inductive
```lean-4
inductive A : XYZ -> ... -> Sort u where
  | abc (a : alpha) : A ...
```
with `alpha : Sort v`
that `u != 0 -> v <= u`? (I guess maybe that would work with good level defeq but not currently?)

Comment (nomeata) [reply src/Lean/Meta/Constructions/CtorElim.lean:35]: Hmm, I am not sure what you mean. The arms of the `withCtorType` have to all have the same universe, so we need to lift to that.

Comment (Rob23oba) [reply src/Lean/Meta/Constructions/CtorElim.lean:35]: I mean could we not use something like `max u u_1` (where `u` is the inductive sort and `u_1` the motive sort) as the universe to lift to instead of computing `maxLevels` (I suppose you should be able to but the level defeq isn't good enough for that)

Comment (nomeata) [reply src/Lean/Meta/Constructions/CtorElim.lean:35]: I think I tried exactly that originally (note that the code is inherited from #8037), and it didn’t work because of the incomplete level comparison code.

File: src/Init/Prelude.lean [hunk 2]
```diff
@@ -11,6 +11,7 @@ public section
 set_option linter.missingDocs true -- keep it documented
 @[expose] section  -- Expose all defs
 
+
```
Comment (nomeata) [inline src/Init/Prelude.lean]:
```suggestion
```

File: tests/lean/run/ctorElim.lean [hunk 3]
```diff
@@ -0,0 +1,28 @@
+inductive Vec (α : Type) : Nat → Type where
+  | nil : Vec α 0
+  | cons {n} : α → Vec α n → Vec α (n + 1)
+
+/--
+info: @[reducible] protected def Vec.nil.elim.{u} : {α : Type} →
+  {motive : (a : Nat) → Vec α a → Sort u} → {a : Nat} → (t : Vec α a) → t.ctorIdx = 0 → motive 0 Vec.nil → motive a t
```
Comment (Rob23oba) [inline tests/lean/run/ctorElim.lean:7]: I wonder if we should maybe include the `t.ctorIdx = n` as a major premise, e.g. to make it useful for use with `induction`
Edit: i.e.
```
@[reducible] protected def Vec.nil.elim.{u} {α : Type} {motive : (a : Nat) → (t : Vec α a) → t.ctorIdx = 0 → Sort u}
    {a : Nat} (t : Vec α a) (h : t.ctorIdx = 0) (nil : motive 0 Vec.nil rfl) : motive a t h
```

**Comment by nomeata** [comment]
!bench

File: tests/lean/run/ctorElim.lean (hunk 3 above)
Comment (nomeata) [reply tests/lean/run/ctorElim.lean:7]: Can you give an example where this would be useful?

Comment (nomeata) [reply tests/lean/run/ctorElim.lean:7]: I expect that it’s not that useful, because `t.ctorIdx = 0` holds by `rfl` once you are in the context of the match arm. Also right now I find the symmetry with `T.casesOn` to be very useful, also conceptually.

Comment (Rob23oba) [reply tests/lean/run/ctorElim.lean:7]: I mean for something like
```lean-4
example (x : Bool) (h : x.ctorIdx = 0) : x = false := by
  induction x, h using Bool.false.elim with
  | false => rfl
```
I don't think this or variants work (with the `induction` tactic). I guess you should still be able to do
```lean-4
example (x : Bool) (h : x.ctorIdx = 0) : x = false :=
  Bool.false.elim x h rfl
```
(and variants with `refine`), so I guess it isn't that bad though

Comment (nomeata) [reply tests/lean/run/ctorElim.lean:7]: I’d rather see that the `induction` tactic learns how to handle side-conditions on the targets better.

In fact,
```
inductive Ex where | a | b

example (x : Ex) (heq : x.ctorIdx = 0) : x = .a := by
  induction x using Ex.a.elim
  case h => exact h
  case a => rfl
```
works almost, only that something clears the `heq` form the hypothesis.

And
```

inductive Ex where | a | b

example (x : Ex) (heq : x.ctorIdx = 0) : x = .a := by
  cases x using Ex.a.elim
  case h => exact heq
  case a => rfl
```
does not clear, but gives
```
Tactic `introN` failed: There are no additional binders or `let` bindings in the goal to introduce
```
which sounds like this needs a fix similar to #3256… ah, but that fix does not cover side-conditions that mention the target. So yeah, future work.

**Comment by nomeata** [comment]
!bench

**Comment by nomeata** [comment]
!bench
